US07638515B2
5-{[7-Chloro-2,5-dihydroxy-4,4-dimethyl-2-trifluoromethyl-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-quinolin-2(1H)-one
Analogously to Example 2, the corresponding imine is produced starting from 1.0 g of 4-(4-chloro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal and 492 mg of 5-aminoquinolin-2(1H)-one. 20 mg of the title compound is obtained by reaction of 300 mg of the imine with 3.2 ml of BBr3 (1N in dichloromethane).

reactant | 4-(4-chloro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | 1.0 g | ClC1=CC(=C(C=C1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC | C14H16ClF3O3
reactant | 5-aminoquinolin-2(1H)-one | 492 mg | NC1=C2C=CC(NC2=CC=C1)=O | C9H8N2O
reactant | BBr3 | 1N, 3.2 ml | B(Br)(Br)Br | BBr3
product | 5-{[7-Chloro-2,5-dihydroxy-4,4-dimethyl-2-trifluoromethyl-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-quinolin-2(1H)-one | 20 mg | ClC1=CC(=C2C(CC(C(C2=C1)NC1=C2C=CC(NC2=CC=C1)=O)(C(F)(F)F)O)(C)C)O | C22H20ClF3N2O3
